US06509328B1
3-[7-(2,4-Difluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl]-benzonitrile
Prepared from {3-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-2′,4′-difluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester (Example K85) by treatment with TFA in CH2Cl2 according to the general procedure M. Obtained as a light yellow solid (37 mg).

reactant | {3-[3-(3-cyano-phenyl)-3-oxo-propionylamino]-2′,4′-difluoro-biphenyl-4-yl}-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)F)NC(CC(=O)C1=CC(=CC=C1)C#N)=O)=O | C27H23F2N3O4
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 3-[7-(2,4-Difluoro-phenyl)-4-oxo-4,5-dihydro-3H-benzo [b][1,4]diazepin-2-yl]-benzonitrile | 37 mg | FC1=C(C=CC(=C1)F)C1=CC2=C(N=C(CC(N2)=O)C=2C=C(C#N)C=CC2)C=C1 | C22H13F2N3O
